US05639915
A round-bottomed flask (50 cc) was charged with 5-amino-2-chloro-4-fluorophenol (1.40 g, 8.67 mmol), (1-butyn-3-yl)tosylate (2.03 g, 9.00 mmol) and tetrabutylammonium bromide (71 mg, 0.22 mmol) to prepare a solution in toluene (25 mL). Subsequently, 48% sodium hydroxide in aqueous solution (6 mL) was added slowly and the mixture was stirred under heating at 60° C. for 2 h. After completion of the reaction, the reaction mixture was cooled to room temperature and water (15 mL) was added, followed by extraction with toluene (10 mL×2). The organic layers were combined and washed with water (10 mL×2). The solvent was distilled off under vacuum from the resulting toluene solution, thereby giving 4-chloro-2-fluoro-5-{(1-butyn-3-yl)oxy}aniline (1.04 g, 4.87 mmol; yield=56.1%). MP: 74.5°-75.5° C. 1H-NMR(CDCl3,TMS,ppm): δ1.60(3H,d,J=6.3Hz), 2.48(1H, d,J=1.5Hz), 3.46(2H,brs), 4.72(1H,d&q,J=6.3 and 1.5Hz), 6.62(1H,d,JHF =7.5Hz), 7.01(1H, d,JHF =10.0Hz).

reactant | 5-amino-2-chloro-4-fluorophenol | 8.67 mmol, 1.40 g | NC=1C(=CC(=C(C1)O)Cl)F | C6H5ClFNO
reactant | (1-butyn-3-yl)tosylate | 9.00 mmol, 2.03 g | C#CC(C)OS(=O)(=O)C1=CC=C(C)C=C1 | C11H12O3S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 15 mL | O | H2O
catalyst | tetrabutylammonium bromide | 0.22 mmol, 71 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 4-chloro-2-fluoro-5-{(1-butyn-3-yl)oxy}aniline | 4.87 mmol, 1.04 g, yield=56.1% | ClC1=CC(=C(N)C=C1OC(C#C)C)F | C10H9ClFNO
